US07741341B2
1.50 g (8.15 mmol) 2,3-Dinitro-phenol were dissolved in 75 mL acetone. Subsequently 1.69 g (12.22 mol) K2CO3, 135.3 mg KI (0.81 mmol) and 0.93 mL (9.77 mmol) 1-bromo-2-methoxy-ethane were added. The reaction mixture was refluxed for 8 h. After that time further 1.69 g (12.22 mol) K2CO3, 400 mg KI and 0.93 mL (9.77 mmol) 1-bromo-2-methoxy-ethane were added. The resulting mixture was refluxed for 16 h and then concentrated under reduced pressure. The residue was dissolved in warm ethyl acetate and purified by flash-chromatography on silica gel using an ethyl acetate/heptane-mixture as eluent to afford 1-(2-Methoxy-ethoxy)-2,3-dinitro-benzene as an orange crystalline material. Yield: 1.35 g MS (ES+): m/e=243.

reactant | 2,3-Dinitro-phenol | 8.15 mmol, 1.50 g | [N+](=O)([O-])C1=C(C=CC=C1[N+](=O)[O-])O | C6H4N2O5
reactant | K2CO3 | 12.22 mol, 1.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-methoxy-ethane | 9.77 mmol, 0.93 mL | BrCCOC | C3H7BrO
reactant | K2CO3 | 12.22 mol, 1.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-methoxy-ethane | 9.77 mmol, 0.93 mL | BrCCOC | C3H7BrO
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | 1-(2-Methoxy-ethoxy)-2,3-dinitro-benzene | COCCOC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C9H10N2O6
